US04126623
Synthesis of 1-(7-chloro-7-fluoro-hept-6-enyl-oxy)-3,4-methylendioxybenzene (JH100):
Operating as described in Example 8 (part B), from 3 g of 1,7-dichloro-1-fluoro-1-heptene, 2.14 g of 3,4-methylendioxyphenol, 0.69 g of NaH and 30 ml of N,N-dimethylformamide there were obtained 2.8 g of the product of the above-cited formula, a colorless oil.

reactant | 1,7-dichloro-1-fluoro-1-heptene | 3 g | ClC(=CCCCCCCl)F | C7H11Cl2F
reactant | 3,4-methylendioxyphenol | 2.14 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | NaH | 0.69 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(7-chloro-7-fluoro-hept-6-enyl-oxy)-3,4-methylendioxybenzene | 2.8 g | ClC(=CCCCCCOC1=CC2=C(C=C1)OCO2)F | C14H16ClFO3
